US07220862B2
5-(2-Benzyloxycarbonylamino-2-methoxycarbonyl-vinyl)-indazole-1-carboxylic acid tert-butyl ester
A solution of N-(benzyloxycarbonyl)-α-phosphonoglycine trimethyl ester (5.50 g, 16.6 mmol) and tetramethylguanidine (1.99 mL, 15.9 mmol) in anhydrous tetrahydrofuran (50 mL) was stirred at −78° C. for 20 min. To this was added a solution of 5-formyl-indazole-1-carboxylic acid tert-butyl ester (3.72 g, 15.1 mmol) in tetrahydrofuran (25 mL) slowly via syringe over 10 min. The reaction mixture was stirred at −78° C. for 4 h and then allowed to warm to room temperature overnight. The solvent was evaporated and the resulting residue subjected to flash column chromatography on silica gel (1:2 ethyl acetate/hexane) giving the title compound as a white foam (5.77 g, 85%). 1H-NMR (CDCl3, 500 MHz) δ 8.09 (d, J=9.0 Hz, 1H), 8.08 (s, 1H), 7.84 (s, 1H), 7.67 (d, J=9.0 Hz, 1H), 7.47 (s, 1H), 7.30 (br s, 5H), 6.43 (br s, 1H), 5.09 (s, 2H), 3.84 (s, 3H), 1.72 (s, 9H). Mass spec.: 452 (MH)+.

reactant | N-(benzyloxycarbonyl)-α-phosphonoglycine trimethyl ester | 16.6 mmol, 5.50 g | COC(=O)C(NC(=O)OCC1=CC=CC=C1)P(=O)(OC)OC | C13H18NO7P
reactant | tetramethylguanidine | 15.9 mmol, 1.99 mL | CN(C(N(C)C)=N)C | C5H13N3
reactant | 5-formyl-indazole-1-carboxylic acid tert-butyl ester | 15.1 mmol, 3.72 g | C(C)(C)(C)OC(=O)N1N=CC2=CC(=CC=C12)C=O | C13H14N2O3
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 5-(2-Benzyloxycarbonylamino-2-methoxycarbonyl-vinyl)-indazole-1-carboxylic acid tert-butyl ester | 5.77 g, 85% | C(C)(C)(C)OC(=O)N1N=CC2=CC(=CC=C12)C=C(C(=O)OC)NC(=O)OCC1=CC=CC=C1 | C24H25N3O6
